US06200988B1
Lithium aluminum. hydride (687 mg) was suspended in ether (16 ml), and aluminum chloride (4.2 g) was added. A solution of 5,7-dimethylquinolone (1.6 g) in ether (16 ml) was dropwise added and the mixture was refluxed for 0.5 hr. The reaction mixture was poured into ice water (100 ml) and extracted with chloroform (100 ml). After washing with water, the chloroform layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The obtained 5,7dimethyl-1,2,3,4-tetrahydroquinoline was dissolved in chloroform (30 ml), and acetic anhydride (929 mg) was added, which was followed by stirring at room temperature for 1 hr. Chloroform (100 ml) was added to the reaction mixture, and the mixture was washed successively with saturated aqueous solution of sodium hydrogencarbonate and water and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/benzene=1/5−1/1) to give 1.5 g of oily 1-acetyl-5,7-dimethyl-1,2,3,4-tetrahydroquinoline.

reactant | Lithium aluminum | [Al].[Li]
reactant | hydride | 687 mg | [H-]
reactant | aluminum chloride | 4.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5,7-dimethylquinolone | 1.6 g | CC1=C2C=CC(NC2=CC(=C1)C)=O | C11H11NO
reactant | ether | 16 ml | CCOCC | C4H10O
reactant | ether | 16 ml | CCOCC | C4H10O
product | 1-acetyl-5,7-dimethyl-1,2,3,4-tetrahydroquinoline | 1.5 g | C(C)(=O)N1CCCC2=C(C=C(C=C12)C)C | C13H17NO
